### PR TITLE
Lattice and truncated minus

### PR DESCRIPTION
**Pull request by cathlelay**
A new pull request with only the definitions of lattice and truncated minus.

### CODE REVIEW

File: UniMath/Foundations/Algebra/Lattice.v [hunk 1]
```diff
@@ -0,0 +1,417 @@
...
+  λ X : lattice, op1,, op2,, pr2 X.
+Definition islattice2lattice : Π X : hSet, islattice X → lattice :=
+λ (X : hSet) (is : islattice X), mklattice (pr2 (pr2 is)).
+
+Section lattice_pty.
+
+Context {L : hSet}
+        (is : islattice L).
+
+Definition Lmin : binop L := pr1 is.
```
Comment (mortberg) [inline UniMath/Foundations/Algebra/Lattice.v]: Maybe a notation for min and max (/\ and \/) would look nice?

File: UniMath/Foundations/Algebra/Lattice.v [hunk 2]
```diff
@@ -0,0 +1,417 @@
...
+  Π x y : L, Lmax x (Lmin x y) = x.
+Proof.
+  exact (pr2 (pr2 (pr2 (pr2 (pr2 is))))).
+Qed.
+
+Lemma Lmin_id :
+  Π x : L, Lmin x x = x.
+Proof.
+  intros x.
+  pattern x at 2 ; rewrite <- (Lmax_absorb x x).
```
Comment (mortberg) [inline UniMath/Foundations/Algebra/Lattice.v]: Like we discussed before pattern at a specific index is not the best as it produces fragile proof scripts. I investigated this one and found that what is done here can be achieved by:

`eapply pathscomp0; [apply maponpaths, (!Lmax_absorb x x)|].`

This is a little more verbose, but hopefully more stable. However I think the ideal solution would be to use a better `rewrite` tactic than the standard one of Coq (I'm of course thinking of the one of SSReflect/MathComp).

**Comment by mortberg** [comment]
LGTM modulo my comments above.

File: UniMath/Foundations/Algebra/Lattice.v (hunk 1 above)
Comment (cathlelay) [inline UniMath/Foundations/Algebra/Lattice.v]: `lattice` is not easy to use, then I have to use `is : islattice L` as a parameter of `Lmin`, `Lmax` and `Lle`.
These notations look nicer but are not useful when we want to work with algebraic structures as monoids.
